US04226869
2,2'-[[3-[(7-Chloro-2-methoxypyrido[3,2-b]quinolin-10-yl)amino]propyl]imino]diethanol dihydrochloride
A mixture of 2.8 g. of 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline, 1.8 g. of 3-[bis(2-hydroxyethyl)amino]propylamine and 6.5 g. of phenol was treated as in Example 5 to obtain the title compound, m.p. 243°-245° C.

reactant | 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)Cl | C13H8Cl2N2O
reactant | 3-[bis(2-hydroxyethyl)amino]propylamine | OCCN(CCCN)CCO | C7H18N2O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2,2'-[[3-[(7-Chloro-2-methoxypyrido[3,2-b]quinolin-10-yl)amino]propyl]imino]diethanol dihydrochloride | Cl.Cl.ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)NCCCN(CCO)CCO | InChI=1S/C20H25ClN4O3.2ClH/c1-28-18-6-5-16-20(24-18)19(15-4-3-14(21)13-17(15)23-16)22-7-2-8-25(9-11-26)10-12-27;;/h3-6,13,26-27H,2,7-12H2,1H3,(H,22,23);2*1H
